US08106059B2
Sec-butyl lithium (26.8 mL of a 1.4M solution in cyclohexane; 1.2 eq) was added dropwise to a solution of N-tert-butyloxycarbonyl-octahydrocyclopenta[c]pyrrole (6.6 gm) and tetramethylethylenediamine (TMEDA) (4.69 mL, 1 eq) in diethyl ether (63 mL) at −78° C., and allowed to stir for 1.5 hours. Ethylchloroformate (6 mL, 2 eq) in diethylether (10 mL) was added dropwise to the reaction mixture (maintaining the temperature at −78° C.), and the reaction mixture was allowed to rise to room temperature over a period of 2.5 hours. The temperature was then reduced to −78° C., and quenched by careful addition of hydrochloric acid in tetrahydrofuran (2.2 eq). The reaction was then diluted with ethyl acetate, and washed successively with 1N hydrochloric acid, water, brine, and then dried over anhydrous sodium sulfate. Evaporation of the organic layer under reduced pressure gave crude product, which was purified by column chromatography on silica gel, eluting with 9% ethyl acetate/hexane, to give 2-tert-butyl 1-ethyl hexahydrocyclopenta[c]pyrrole-1,2(1H)-dicarboxylate (2.5 gm).

reactant | Sec-butyl lithium | C(C)(CC)[Li]
reactant | N-tert-butyloxycarbonyl-octahydrocyclopenta[c]pyrrole | 6.6 gm | C(C)(C)(C)OC(=O)N1CC2C(C1)CCC2 | C12H21NO2
reactant | tetramethylethylenediamine | 4.69 mL, 1 eq | CN(CCN(C)C)C | C6H16N2
reactant | Ethylchloroformate | 6 mL, 2 eq | C(C)OC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 2.2 eq | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | diethyl ether | 63 mL | C(C)OCC | C4H10O
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl 1-ethyl hexahydrocyclopenta[c]pyrrole-1,2(1H)-dicarboxylate | 2.5 gm | C1(N(CC2C1CCC2)C(=O)OC(C)(C)C)C(=O)OCC | C15H25NO4
